US06617339B1
3-(4-(4-(2(R),3-Dihydroxypropanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
A solution of 2,2-dimethyl-1,3-dioxolane-4(R)-carboxylic acid (162 mg, 1.1 mmol) in dichloromethane (20 ml) under nitrogen was cooled with stirring to 4°, and treated successively with dicyclohexylcarbodiimide (227 mg, 1.1 mmol) and 1-hydroxybenzotriazole (147 mg, 1.1 mmol), then stirred at the same temperature for 1 hour. N,N-Diisopropylethylamine (129 mg, 1 mmol) was added, followed by 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (399 mg, 0.92 mmol). The mixture was stirred for 2 hours, allowing the temperature to rise to ambient. Solid was filtered off, and the organic solution washed with water (2×20 ml), dried over magnesium sulfate and evaporated to dryness. The residue was purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (82 mg).

reactant | 2,2-dimethyl-1,3-dioxolane-4(R)-carboxylic acid | 1.1 mmol, 162 mg | CC1(OC[C@@H](O1)C(=O)O)C | C6H10O4
reactant | dicyclohexylcarbodiimide | 1.1 mmol, 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 1.1 mmol, 147 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-Diisopropylethylamine | 1 mmol, 129 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 0.92 mmol, 399 mg | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(4-(4-(2(R),3-Dihydroxypropanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 82 mg | O[C@@H](C(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)CO | C20H23FN4O7
